US07217737B2
M30: (E)-3-(3,5-diisopropyl-4-hydroxyphenyl)-2-(phenylsulfonyl)acrylonitrile)
M30 was prepared with 3,5-diisopropyl-4-hydroxybenzaldehyde and phenylsulfonly acetonitrile under the similar conditions as decribed for M26.

reactant | 3,5-diisopropyl-4-hydroxybenzaldehyde | C(C)(C)C=1C=C(C=O)C=C(C1O)C(C)C | C13H18O2
reactant | phenylsulfonly acetonitrile | C1(=CC=CC=C1)S(=O)(=O)CC#N | C8H7NO2S
product | (E)-3-(3,5-diisopropyl-4-hydroxyphenyl)-2-(phenylsulfonyl)acrylonitrile | C(C)(C)C=1C=C(C=C(C1O)C(C)C)/C=C(\C#N)/S(=O)(=O)C1=CC=CC=C1 | C21H23NO3S
